* Extracted by KLayout with GF180MCU LVS runset on : 25/07/2026 15:56

.SUBCKT inv1 Vss Vdd A Y
M$1 Y A Vdd Vdd pfet_03v3 L=0.28U W=0.84U AS=0.546P AD=0.546P PS=2.98U PD=2.98U
M$2 Y A Vss Vss nfet_03v3 L=0.28U W=0.42U AS=0.2646P AD=0.2646P PS=2.1U PD=2.1U
.ENDS inv1
